US09359359B2
To a solution of 1-(2-aminoethyl)-7-(4-chlorobenzyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione (100 mg, 0.197 mmol) and TEA (40 mg, 0.393 mmol) in DCM (10 mL) was added propane-2-sulfonyl chloride (42 mg, 0.295 mmol) dropwise at 0° C. The resulting mixture was stirred at 40° C. for 16 h. The mixture was diluted with DCM and water, and the phases were separated. The organic phase was washed with brine, dried over sodium sulfate, filtered and concentrated to give crude product. This crude material was recrystallized from ethanol to give N-(2-(7-(4-chlorobenzyl)-3-methyl-2,6-dioxo-8-(3-(trifluoromethoxy)phenoxy)-2,3,6,7-tetrahydro-1H-purin-1-yl)ethyl)propane-2-sulfonamide (20 mg, 16.5% yield) as white solid. 1H-NMR (DMSO-d6) δ 7.63-7.59(t, 1H), 7.48(s, 1H), 7.45-7.41(m, 5H), 7.35-7.33(d, 1H), 7.26-7.18(m, 1H), 5.45(s, 2H), 4.01-3.97(t, 1H), 3.29(s, 6H). LCMS retention time 3.195 min; LCMS MH+ 616.

reactant | 1-(2-aminoethyl)-7-(4-chlorobenzyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione | 0.197 mmol, 100 mg | NCCN1C(N(C=2N=C(N(C2C1=O)CC1=CC=C(C=C1)Cl)OC1=CC(=CC=C1)OC(F)(F)F)C)=O | C22H19ClF3N5O4
reactant | propane-2-sulfonyl chloride | 0.295 mmol, 42 mg | CC(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-(2-(7-(4-chlorobenzyl)-3-methyl-2,6-dioxo-8-(3-(trifluoromethoxy)phenoxy)-2,3,6,7-tetrahydro-1H-purin-1-yl)ethyl)propane-2-sulfonamide | 20 mg, 16.5% yield | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)CCNS(=O)(=O)C(C)C)=O)C)OC2=CC(=CC=C2)OC(F)(F)F)C=C1 | C25H25ClF3N5O6S
